US04886809
0.8 Gram of 6-(4-oxo-1-piperidyl)carbonyl-3,4-dihydrocarbostyril, 1.6 ml of benzylamine and 1 g of Molecular Sieve 3A (a trademark for synthetic feldspar manufactured by Linde Co., U.S.A.) were dispersed in 15 ml of chloroform and refluxed by heating for 6 hours. Molecular Sieve 3A was removed by filtration, the filtrate was concentrated, then the residue obtained was washed several times with diethyl ether, next, purified by means of a silica gel column chromatography to obtain 6-(4-benzylimino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril.

reactant | 6-(4-oxo-1-piperidyl)carbonyl-3,4-dihydrocarbostyril | O=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C15H16N2O3
reactant | benzylamine | 1.6 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-(4-benzylimino-1-piperidyl)carbonyl-3,4-dihydrocarbostyril | C(C1=CC=CC=C1)N=C1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O | C22H23N3O2
